US06960591B2
To a DMF solution (10 mL) of (2-methyl-1H-benzimidazol-5-yl)methanol (811 mg) were added tert-butyldimethylsilyl chloride (904 mg) and imidazole (680 mg), followed by 2 hours of stirring at room temperature. The reaction solution was concentrated, water was added thereto, the mixture was extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent: chloroform:methanol=10:1 (v/v)) to obtain 5-(tert-butyldimethylsilyloxymethyl)-2-methyl-1H-benzimidazole (1305 mg, 94%).

reactant | (2-methyl-1H-benzimidazol-5-yl)methanol | 811 mg | CC1=NC2=C(N1)C=CC(=C2)CO | C9H10N2O
reactant | tert-butyldimethylsilyl chloride | 904 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 680 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(tert-butyldimethylsilyloxymethyl)-2-methyl-1H-benzimidazole | 1305 mg, 94% | [Si](C)(C)(C(C)(C)C)OCC1=CC2=C(NC(=N2)C)C=C1 | C15H24N2OSi
